data/rdb19/train.csv
rxn,smiles,ea
565,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:6]([H:17])([H:18])[H:19].[O:1]([H:2])[C:5]([C:4]([C:3]([H:11])([H:12])[H:13])([H:14])[H:15])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16],52.60541611065855
1601,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([H:5])[H:12])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])[H:21].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][H:20],57.10249957931228
2650,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24]=[C:25]([H:30])[H:31])([H:26])([H:27])[H:28].[H:16][H:29],64.50349469226785
256,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2])([H:3])([H:4])[H:5].[C:6]1([H:7])([H:9])[C:8]([H:10])([H:11])[O:12][C:13]([H:16])([H:17])[O:15][O:14]1,60.392126203048974
3592,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:22]1([H:36])[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]([H:38])=[C:23]1[H:37])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.525157301686704
4445,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3][H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[H:10][C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19],26.07700821547769
421,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[C:12](=[O:13])[O:14][C:15]([H:27])([H:28])[H:29])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1]([O:2][O:3][H:20])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:21])([H:22])[H:23])([C:11]([H:24])([H:25])[H:26])[C:12](=[O:13])[O:14][C:15]([H:27])([H:28])[H:29])[H:19])([H:16])([H:17])[H:18],25.127419404743705
377,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:11])[H:12].[O:1]([O:2][H:10])[H:3],27.57311160705285
5352,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6][c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:14][C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36],34.59260568767786
2333,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:15])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])[H:16],23.661476597568253
5473,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[O:6][C:7](=[O:8])[C:9]([H:14])([H:15])[H:16])([H:10])([H:11])[H:12].[H:13][C:17]([C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23],34.56668622023426
4778,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[C:6]([C:5]([H:11])([H:12])[H:13])([O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14],24.14448735676706
2281,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[H:30])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])[H:29])([H:20])[H:21])([H:17])([H:18])[H:19],22.82746599701932
